US08202877B2
N-[4-(4-Chlorophenyl)-6-cyclopropylaminopyrimidin-5-yl]-2-ethylnicotinamide
6-(4-Chlorophenyl)-N-cyclopropylpyrimidine-4,5-diamine (1.00 g, 3.83 mmol) was initially charged in a mixture of DCM (3.20 ml) and pyridine (0.93 ml) and cooled to 0° C. Solid 2-ethylnicotinoyl chloride (780 mg, 4.60 mmol) was added, and the reaction mixture was warmed to room temperature and stirred for another hour. After addition of semisaturated NaHCO3 solution, the organic phase was separated off and concentrated under reduced pressure.

reactant | 6-(4-Chlorophenyl)-N-cyclopropylpyrimidine-4,5-diamine | 3.83 mmol, 1.00 g | ClC1=CC=C(C=C1)C1=C(C(=NC=N1)NC1CC1)N | C13H13ClN4
reactant | 2-ethylnicotinoyl chloride | 4.60 mmol, 780 mg | C(C)C1=C(C(=O)Cl)C=CC=N1 | C8H8ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3.20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.93 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-Chlorophenyl)-6-cyclopropylaminopyrimidin-5-yl]-2-ethylnicotinamide | ClC1=CC=C(C=C1)C1=NC=NC(=C1NC(C1=C(N=CC=C1)CC)=O)NC1CC1 | C21H20ClN5O
